US04017416
560 Gram of granular anhydrous aluminum chloride and 1 l of nitrobenzene were introduced into a 5 l three neck flask, and stirred under water-cooling to give a solution. A solution of 600 g of diphenyl and 482.5 g of n-valeric acid chloride dissolved in 1 l of nitrobenzene (prepared in advance) was dropwise added into said three neck flask over 2 hours. After the addition, the resulting mixture was stirred for one hour as it was. Thereafter it was stirred at 40°-45° C for 2 hours, cooled to room temperature, poured cautiously into a mixed solution of 1.3 l of conc. hydrochloric acid and 1.5 l of water for decomposing the catalyst, and cooled to 20° C. Precipitated crystal was separated by filtration. Nitrobenzene was distilled off from nitrobenzene layer by distillation under a reduced pressure to give an additional crystal. Both the crystals were recrystallized from ethanol to give 881 g of crystal of 4-n-pentanoylbiphenyl (m.p. 79°-79.5° C) (yield: 95% based on biphenyl).

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 1.3 l | Cl | ClH
reactant | water | 1.5 l | O | H2O
reactant | nitrobenzene | 1 l | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | nitrobenzene | 1 l | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4-n-pentanoylbiphenyl | yield: 95% | C(CCCC)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C17H18O
